US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine (38 mg), chloroform (0.75 mL), and methanol (0.35 mL) was added a 4 M solution (0.2 mL) of hydrogen chloride in 1,4-dioxane, and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was concentrated under reduced pressure to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine dihydrochloride (43 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine | 38 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)C1=CC=CC=C1)C=CC=C2)F | C28H31F2N7O
reactant | chloroform | 0.75 mL | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | 0.35 mL | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine dihydrochloride | 43 mg | Cl.Cl.FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)C1=CC=CC=C1)C=CC=C2)F | InChI=1S/C28H31F2N7O.2ClH/c29-26(30)27-32-22-8-4-5-9-23(22)37(27)25-18-24(36-14-16-38-17-15-36)33-28(34-25)31-19-20-10-12-35(13-11-20)21-6-2-1-3-7-21;;/h1-9,18,20,26H,10-17,19H2,(H,31,33,34);2*1H
